US05008263
4,5-Diamino-1-methyl-3-(2-thienyl)pyrazole
A suspension of 5-amino-4-nitroso-1-methyl-3-(2-thienyl)-pyrazole (1.255 g, 6.03 mmol) in ethanol (90 ml) was hydrogenated at 20 p.s.i. over 10% palladium on carbon (130 mg) at room temperature for 2 hours. The mixture was filtered through Arbocel filter aid and the filtrate was concentrated under reduced pressure to give the title compound as a red-brown solid (1.133 g, 97%), m.p. 154°-155° C.

reactant | 5-amino-4-nitroso-1-methyl-3-(2-thienyl)-pyrazole | 6.03 mmol, 1.255 g | NC1=C(C(=NN1C)C=1SC=CC1)N=O | C8H8N4OS
solvent | ethanol | 90 ml | C(C)O | C2H6O
catalyst | palladium on carbon | 130 mg | [Pd] | Pd
product | 4,5-Diamino-1-methyl-3-(2-thienyl)pyrazole | 1.133 g, 97% | NC=1C(=NN(C1N)C)C=1SC=CC1 | C8H10N4S
